US07462617B2
2-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-nitro-benzoic acid methyl ester
Following procedure D, the title compound is prepared by reaction of methyl 4-nitrophthalate [90072-77-8] with 1-(3fluoro-4-piperazin-1-yl-phenyl)-ethanone (m.p. 189-191° C., MS (ISP): 429.4 M+H+).

reactant | methyl 4-nitrophthalate | [N+](=O)([O-])C=1C=C(C(C(=O)OC)=CC1)C(=O)[O-]
reactant | 1-(3fluoro-4-piperazin-1-yl-phenyl)-ethanone | 429.4 M | FC=1C=C(C=CC1N1CCNCC1)C(C)=O | C12H15FN2O
product | 2-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-nitro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(C)=O)F)=O | C21H20FN3O6
